US06951879B2
350 mg (0.62 mmol) (3-{4-[6-(4-{[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-ethyl-amino}-butoxy)-benzo[d]isothiazol-3-yl]-phenyl}-prop-2-ynyl)-dimethyl-amine in 5 ml THF were treated with 0.92 ml 1M Bu4NF in THF at RT for 1 h. The solution was concentrated and the residue was purified by column chromatography on silica gel to give 185 mg (66%) 2-[(4-{3-[4-(3-Dimethylamino-prop-1-ynyl)-phenyl]-benzo[d]isothiazol-6-yloxy}-butyl)-ethyl-amino]-ethanol as light brown oil, MS: 452 (MH+).

reactant | (3-{4-[6-(4-{[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-ethyl-amino}-butoxy)-benzo[d]isothiazol-3-yl]-phenyl}-prop-2-ynyl)-dimethyl-amine | 0.62 mmol, 350 mg | C(C)(C)(C)[Si](OCCN(CCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C#CCN(C)C)C=C1)CC)(C)C | C32H47N3O2SSi
reactant | Bu4NF | 1M, 0.92 ml | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-[(4-{3-[4-(3-Dimethylamino-prop-1-ynyl)-phenyl]-benzo[d]isothiazol-6-yloxy}-butyl)-ethyl-amino]-ethanol | 185 mg, 66% | CN(CC#CC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCCN(CCO)CC)C | C26H33N3O2S
